US09233985B2
A stirred solution of (3R,4S)-tert-butyl 3-acetamido-4-allyl-3-(tert-butylcarbamoyl)pyrrolidine-1-carboxylate (5.51 g, 15 mmol) in anhydrous methylene chloride (80 mL) under nitrogen was treated with chloro-1,5-cyclooctadiene iridium dimer (0.252 g, 0.375 mmol) and 1,2-bis(diphenylphosphino)ethane (0.299 g, 0.75 mmol), stirred for 30 min, and cooled (−20° C.). 4,4,5,5-Tetramethyl-1,3,2-dioxaborolane (3.30 mL, 22.5 mmol) was added dropwise, and the solution was placed in an ice bath and allowed to reach room temperature overnight (18 h). The mixture was quenched with water (75 mL), stirred 15 min, and extracted with ethyl acetate (400 mL, then 2×100 mL). The combined organic solution was washed with saturated aqueous sodium chloride (150 mL), dried (MgSO4), and concentrated. The solid was recrystallized (2 crops) from acetonitrile to afford (3R,4S)-tert-butyl 3-acetamido-3-(tert-butylcarbamoyl)-4-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)propyl)pyrrolidine-1-carboxylate (6.13 g, 82%) as a white solid. NMR (CDCl3) δ 6.40-6.60 (m, 1 H), 6.23 (s, 1 H), 3.95-4.05 (m, 1 H), 3.65-3.75 (m, 2 H), 2.90-3.20 (m, 2 H), 2.00 (s, 3 H), 1.45 (s, 9 H), 1.30-1.45 (m, 4 H), 1.33 (s, 9 H), 1.22 (s, 12 H), 0.70-0.80 (m, 2 H). MS (m+1): 496.4.

reactant | (3R,4S)-tert-butyl 3-acetamido-4-allyl-3-(tert-butylcarbamoyl)pyrrolidine-1-carboxylate | 15 mmol, 5.51 g | C(C)(=O)N[C@]1(CN(C[C@@H]1CC=C)C(=O)OC(C)(C)C)C(NC(C)(C)C)=O | C19H33N3O4
reactant | 4,4,5,5-Tetramethyl-1,3,2-dioxaborolane | 22.5 mmol, 3.30 mL | CC1(OBOC1(C)C)C | C6H13BO2
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
catalyst | chloro-1,5-cyclooctadiene iridium | [Ir].ClC1=CCCC=CCC1
catalyst | 1,2-bis(diphenylphosphino)ethane | 0.75 mmol, 0.299 g | C1(=CC=CC=C1)P(CCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C26H24P2
product | (3R,4S)-tert-butyl 3-acetamido-3-(tert-butylcarbamoyl)-4-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)propyl)pyrrolidine-1-carboxylate | 6.13 g, 82% | C(C)(=O)N[C@]1(CN(C[C@@H]1CCCB1OC(C(O1)(C)C)(C)C)C(=O)OC(C)(C)C)C(NC(C)(C)C)=O | C25H46BN3O6
